US07321045B2
Part C. Preparation of 2-Amino-3-((1-(3-((1-(triphenylmethyl)imidazol-2-yl)amino)propyl)(1H-indazol-5-yl))carbonylamino)propanoic acid
2-((Phenylmethoxy)carbonylamino-3-((1-(3-((1-(triphenylmethyl)imidazol-2-yl)amino)propyl)(1H-indazol-5-yl))carbonylamino)propanoic acid (0.750 g, 1.00 mmol) was added to Pd/C (1.00 g) in ethanol (20 mL). The reaction was evacuated and purged with nitrogen twice. The reaction was then evacuated and purged with hydrogen twice, and then maintained under an atmosphere of hydrogen for 24 h. The reaction was filtered through celite. The filtrate was concentrated to an oil. The oil was recrystallized from hexane:ethyl acetate to give 215.6 mgs (35%) of product. ESMS: Calcd. for C36H35N7O3, 613.28. Found, 614.2 [M+H]+1 Analytical HPLC, Method A, Rt=12.26 min, Purity=90%.

reactant | (Phenylmethoxy)carbonylamino-3-((1-(3-((1-(triphenylmethyl)imidazol-2-yl)amino)propyl)(1H-indazol-5-yl))carbonylamino)propanoic acid | 1.00 mmol, 0.750 g | C1(=CC=CC=C1)COC(=O)NC(C(=O)O)CNC(=O)C=1C=C2C=NN(C2=CC1)CCCNC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H41N7O5
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 1.00 g | [Pd] | Pd
product | 2-Amino-3-((1-(3-((1-(triphenylmethyl)imidazol-2-yl)amino)propyl)(1H-indazol-5-yl))carbonylamino)propanoic acid | 215.6 mgs, 35% | NC(C(=O)O)CNC(=O)C=1C=C2C=NN(C2=CC1)CCCNC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H35N7O3
